US05189054
Scheme I, step e: 3-[(p-chlorophenacyl)methylamino]-2-carbethoxy-4,6-dichloro-1-(tert-butyloxycarbonyl)-indole
Suspend sodium hydride (160 mg of a 60% dispersion, 4 mmol) in anhydrous tetrahydrofuran/dimethylformamide (3 mL/2:1) and cool to 0° C. under a nitrogen atmosphere. Add 3-[(p-chlorophenacyl)amino]-2-carbethoxy-4,6-dichloro-1-(tert-butyloxycarbonyl)-indole (2 g, 3.9 mmol) in tetrahydrofuran/dimethylformamide (10 mL/2:1) dropwise to the suspension. Stir at 0° C. for 30 minutes. Add methyl iodide (0.137 mL, 2.2 mmol) and stir for 30 minutes at 0° C. Warm the reaction to room temperature and after 4 hours quench with water (20 mL). Extract with ethyl acetate (20 mL), wash with saturated sodium chloride, dry over magnesium sulfate, filter and concentrate in vacuo to yield the title compound.

reactant | sodium hydride | [H-].[Na+]
reactant | 3-[(p-chlorophenacyl)amino]-2-carbethoxy-4,6-dichloro-1-(tert-butyloxycarbonyl)-indole | 3.9 mmol, 2 g | ClC1=CC=C(C(CNC2=C(N(C3=CC(=CC(=C23)Cl)Cl)C(=O)OC(C)(C)C)C(=O)OCC)=O)C=C1 | C24H23Cl3N2O5
reactant | methyl iodide | 2.2 mmol, 0.137 mL | CI | CH3I
reactant | tetrahydrofuran dimethylformamide | 3 mL | O1CCCC1.CN(C=O)C
reactant | tetrahydrofuran dimethylformamide | 10 mL | O1CCCC1.CN(C=O)C
product | 3-[(p-chlorophenacyl)methylamino]-2-carbethoxy-4,6-dichloro-1-(tert-butyloxycarbonyl)-indole | ClC1=CC=C(C(CCNC2=C(N(C3=CC(=CC(=C23)Cl)Cl)C(=O)OC(C)(C)C)C(=O)OCC)=O)C=C1 | C25H25Cl3N2O5
